US08492378B2
2-methoxy-5-[[[5-(1,2,4-triazolo[1,5-a]pyridin-7-yl)-1,3,4-oxadiazol-2-yl]thio]methyl]benzonitrile
In the same manner as in Example 1 and using 5-(1,2,4-triazolo[1,5-a]pyridin-7-yl)-1,3,4-oxadiazole-2-thiol triethylamine salt instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and 5-(chloromethyl)-2-methoxybenzonitrile instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 56%) was obtained as pale-brown crystals.

reactant | 5-(1,2,4-triazolo[1,5-a]pyridin-7-yl)-1,3,4-oxadiazole-2-thiol triethylamine salt | C(C)N(CC)CC.N=1C=NN2C1C=C(C=C2)C2=NN=C(O2)S
reactant | 5-(chloromethyl)-2-methoxybenzonitrile | ClCC=1C=CC(=C(C#N)C1)OC | C9H8ClNO
product | 2-methoxy-5-[[[5-(1,2,4-triazolo[1,5-a]pyridin-7-yl)-1,3,4-oxadiazol-2-yl]thio]methyl]benzonitrile | yield 56% | COC1=C(C#N)C=C(C=C1)CSC=1OC(=NN1)C1=CC=2N(C=C1)N=CN2 | C17H12N6O2S
